US07790885B2
4-(4-Amino-2,5-difluorophenyl)pyridine-2-carboxamide
4-Amino-2,5-difluorophenol (4.95 g) was dissolved in dimethyl sulfoxide (50 ml) under a nitrogen stream, and potassium tert-butoxide (4.05 g) was added at room temperature, and the mixture was stirred for 25 minutes. 4-Chloropyridine-2-carboxamide (2.70 g) was added to the mixture, which was stirred at 80° C. for 2.5 hours. The reaction mixture was allowed to cool down to room temperature, and a 1N aqueous solution of sodium hydroxide (74.25 ml) was added, and the mixture was stirred for 10 hours. The precipitated solid was collected by filtration, and the resultant solid was washed with water. The solid was dried by hot air at 100° C. for 24 hours to give the title compound (3.38 g, 74%) as purple powder.

reactant | 4-Amino-2,5-difluorophenol | 4.95 g | NC1=CC(=C(C=C1F)O)F | C6H5F2NO
reactant | potassium tert-butoxide | 4.05 g | CC(C)([O-])C.[K+]
reactant | 4-Chloropyridine-2-carboxamide | 2.70 g | ClC1=CC(=NC=C1)C(=O)N | C6H5ClN2O
reactant | sodium hydroxide | 74.25 ml | [OH-].[Na+]
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 4-(4-Amino-2,5-difluorophenyl)pyridine-2-carboxamide | 3.38 g, 74% | NC1=CC(=C(C=C1F)C1=CC(=NC=C1)C(=O)N)F | C12H9F2N3O
